US04885283
1.3 g (6.34 mmol) of phthalylglycine were dissolved in 10 ml of tetrahydrofuran. The solution was cooled in an ice-salt bath and then treated with 0.86 g (6.4 mmol) of hydroxybenzotriazole and 1.3 g (6.4 mmol) of N,N'-dicyclohexylcarbodiimide. The mixture was stirred at room temperature for 5 hours and dicyclohexylurea was then removed by filtration. The filtrate was evaporated. The resulting gum was dissolved in 10 ml of tetrahydrofuran and the solution was treated at 0° C. with 2.5 g (6.2 mmol) of benzyl 2(RS)-[[(RS)-(aminomethyl)(ethoxy)phosphinyl]methyl]-4-methylvalerate and 0.75 g (6.5 mmol) of N-ethylmorpholine. The solution was stirred at room temperature overnight and the solvent was removed by filtration. The residue was taken up in 100 ml ethyl acetate, washed in sequence with 5% citric acid solution, 5% sodium hydrogen carbonate solution and water, dried over anhydrous sodium sulfate and evaporated to give a gum. Chromatography of this gum on silica gel using chloroform/methanol (98:2) for the elution gave 0.95 g of benzyl 2(RS)-[[(RS)-(ethoxy)[(2-phthalimidoacetamido)methyl]phosphinyl]methyl]-4 -methylvalerate.

reactant | hydroxybenzotriazole | 6.4 mmol, 0.86 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N,N'-dicyclohexylcarbodiimide | 6.4 mmol, 1.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | benzyl 2(RS)-[[(RS)-(aminomethyl)(ethoxy)phosphinyl]methyl]-4-methylvalerate | 6.2 mmol, 2.5 g | NCP(=O)(OCC)CC(C(=O)OCC1=CC=CC=C1)CC(C)C | C17H28NO4P
reactant | N-ethylmorpholine | 6.5 mmol, 0.75 g | C(C)N1CCOCC1 | C6H13NO
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | benzyl 2(RS)-[[(RS)-(ethoxy)[(2-phthalimidoacetamido)methyl]phosphinyl]methyl]-4 -methylvalerate | 0.95 g | C(C)OP(=O)(CNC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)CC(C(=O)OCC2=CC=CC=C2)CC(C)C | C27H33N2O7P
